US05338752
Diethyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonate (0.58 g) was dissolved in dry chloroform, cooled to -40° C. and to it was added trimethylsilyl iodide (1.05 g) over 2 mins under an atmosphere of nitrogen. The cooling bath was removed and the reaction mixture was stirred for 2.5 hours at room temperature then evaporated to an oil and re-evaporated from methanol, treated with excess aqueous sodium bicarbonate, evaporated to an oil and re-evaporated from methanol, water and ethanol respectively. The oil was taken up in ethanol, treated with excess aqueous sodium bicarbonate, evaporated to dryness then taken up in ethanol, filtered and the filtrate evaporated to an oil which solidified under ether. The solid was dissolved in water and passed down a Dowex 1×2-200 ion exchange resin in the formate form. Elution with aqueous formic acid gave on evaporation of the solvent 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonic acid (0.078 g, 15%) as a light brown foam.

reactant | Diethyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonate | 0.58 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(OCC)(=O)OCC)=O | C32H39N2O4P
reactant | trimethylsilyl iodide | 1.05 g | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonic acid | 0.078 g, 15% | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(O)(=O)O)=O | C28H31N2O4P
